US03975443
A solution of 3,4,5-trimethoxybenzoyl chloride (2.2 g;) in dry benzene (25 ml) and a solution of 1-[1-(aminomethyl)cyclohexyl]-4-methyl piperazine (2.0g;) in dry benzene (25 ml) were mixed and heated under reflux for 1 hr. The solid which formed was filtered, washed with benzene and was recrystallised from isopropanol-ether to give 1-[1-(3,4,5-trimethoxybenzamidomethyl)cyclohexyl]-4-methyl piperazine hydrochloride (1.9 g., 45.4%) m.p. 208°-9°C.

reactant | 3,4,5-trimethoxybenzoyl chloride | 2.2 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | 1-[1-(aminomethyl)cyclohexyl]-4-methyl piperazine | 2.0g | NCC1(CCCCC1)N1CCN(CC1)C | C12H25N3
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 1-[1-(3,4,5-trimethoxybenzamidomethyl)cyclohexyl]-4-methyl piperazine hydrochloride | 1.9 g, 45.4% | Cl.COC=1C=C(C(=O)NCC2(CCCCC2)N2CCN(CC2)C)C=C(C1OC)OC | InChI=1S/C22H35N3O4.ClH/c1-24-10-12-25(13-11-24)22(8-6-5-7-9-22)16-23-21(26)17-14-18(27-2)20(29-4)19(15-17)28-3;/h14-15H,5-13,16H2,1-4H3,(H,23,26);1H
